US08067445B2
Step 1: 2-Hydroxy-5-methanesulfonyl-benzaldehyde
5-Bromosalicylaldehyde (0.402 g, 2.0 mmol), sodium methanesulfinate (0.918 g, 9.0 mmol), and copper(I) iodide (1.71 g, 9.0 mmol) were combined in NMP (16 mL) and stirred under N2 at 140° C. overnight. The mixture was diluted with 1:1 EtOAc:hexanes (150 mL) and filtered through a pad of Celite. The filtrate was washed three times with H2O, and then dried, filtered, and concentrated. The residue was purified by silica gel chromatography (0-100% EtOAc in hexanes) to give the title compound.

reactant | 5-Bromosalicylaldehyde | 2.0 mmol, 0.402 g | BrC1=CC=C(C(C=O)=C1)O | C7H5BrO2
reactant | sodium methanesulfinate | 9.0 mmol, 0.918 g | CS(=O)[O-].[Na+]
solvent | NMP | 16 mL | CN1CCCC1=O | C5H9NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | copper(I) iodide | 9.0 mmol, 1.71 g | [Cu]I
product | 2-Hydroxy-5-methanesulfonyl-benzaldehyde | OC1=C(C=O)C=C(C=C1)S(=O)(=O)C | C8H8O4S
